US03978069
12 g (0.05 mole) phenyl-isopropyl-chloroacetic acid ethyl ester (b.p. 95°C./0.3 mm Hg) are heated with 10 g imidazole and 100 ml acetonitrile at boiling temperature for 18 hours. After distilling off the solvent in a vacuum, 50 ml of water are added and the mixture is extracted by shaking with methylene chloride. The methylene chloride is dried and distilled off in a vacuum. The phenyl-isopropyl-imidazolyl-acetic acid ethyl ester is thus obtained in the form of an oil.

reactant | phenyl-isopropyl-chloroacetic acid ethyl ester | 0.05 mole, 12 g | C(C)OC(C(Cl)(C(C)C)C1=CC=CC=C1)=O | C13H17ClO2
reactant | imidazole | 10 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | phenyl-isopropyl-imidazolyl-acetic acid ethyl ester | C(C)OC(C(C=1NC=CN1)(C(C)C)C1=CC=CC=C1)=O | C16H20N2O2
